Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
spironolactone
 
Attending: ___
 
___ Complaint:
s/p fall 

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ y/o woman, pmh of T1D on insulin pump, PVD 
s/p right leg amputation, who presents s/p fall w/ head strike, 
as well as new visual and auditory hallucinations x 3 days. Pt 
recently seen by PCP ___ on ___ for left arm and torso 
pain after hitting her arm against the night stand in ___. 
Shoulder and humerus films were negative for fx and she was 
prescribed Naproxen for pain management. 

During this time, the patient developed acute urinary retention 
and was unable to urinate x 2 days. This AM, the patient stood 
up, began shaking, and attempted to use her walker which she 
uses at baseline, and then fell, hitting her head. EMS arrived 
on the scene, found her own, and brought her to ___ ED. 

In the ED initial vital signs: T 97.9 P 82 BP 138/59 R 16 O2Sat 
88% RA. Her physical exam in the ED was notable for being 
intermittently oriented x3, drowsy, and requiring prompting to 
answer questions. She also intermittently used vague hand 
motions and stated that she was knitting. Laboratory data in the 
ED was notable for urine tox positive for opiates (on chronic 
opioids w/ pain contract), negative serum tox, Na 125, K 5.4, 
BUN 54, Cr 4.6 (baseline 1.1) glucose 327, and lactate of 1.1. 
She had an anion gap of 18, however a UA was negative for 
ketones. She was started on IVF  and an insulin drip w/ bolus 
was started. A repeat glucose check was 46, her insulin drip was 
discontinued, and she was given an amp of dextrose. A head CT 
was negative for acute injury, and a CT C spine showed no fx. 
CXR was significant for possible mild congestion.   

On arrival to the MICU vital signs: 98.6. 80 106/54 15 96%2L. 
Pt's speech is dysarthric, able to follow all commands, however 
appears very drowsy and demonstrates speech arrest when 
answering questions. She is AOx3 but requires prompting and 
re-direction. She states that she has been urinating 
"sometimes".

Review of systems:  
Unable to obtain in setting of altered mental status

 
Past Medical History:
- h/o DVT, unknown when  
- DMI on insulin pump. Followed by 
___.  
- Peripheral neuropathy  
- h/o gastroparesis  
- Chronic LBP/sciatica  
- HTN  
- Hyperlipidemia  
- Hypothyroidism  
- PVD/PAD  
- Autonomic dysfunction, orthostatic hypotension  
- History of seizure ___ characterized by becoming less  
responsive, oriented to name only, gaze deviation and left arm  
shaking. ___ 297 and was in the setting of receiving cipro, Neuro 

felt ___ infection vs PRES.  
- Barretts Esophagus on EGD ___  
- Depression  
- MI ___, no stents 

Past Surgical History
___ - Malunion right intertrochanteric hip fracture with  
protrusion of screw s/p revision arthroplasty  
___ Comminuted right intertrochanteric hip fracture s/p right 

hip fracture open reduction internal fixation (intramedullary  
nail)  
___ RLE angiography  
RLE SFA-AT BPG with NRSVG ___  
Angioplasty of vein graft ___  
___, L hip hemiarthroplasty  
- Hiatal hernia  
- s/p laminectomy  
- s/p hysterectomy

 
Social History:
___
Family History:
Mother - coronary artery disease with MI in her ___, died at age 
___. 
Father - coronary artery disease with MI in her ___, died at age 
___.  

 
Physical Exam:
On Admission:
Vitals: 98.6 80 106/54 15 96%2L 
General- sleepy, mildly  
HEENT- Sclera anicteric, MMM dry with occasional white film on 
tongue and roof of mouth  
Neck- supple, JVP not elevated, no LAD  
Lungs- Clear to auscultation bilaterally with decreased breath 
sounds at bases
CV- Regular rate and rhythm, holosystolic murmur heard best at 
RUSB Abdomen- soft, non-tender, mildly distended abdomen, bowel 
sounds present, no rebound tenderness or guarding, no 
organomegaly    
Ext- warm, well perfused, 2+ pulses, no edema, BKA of right leg 
with well healed stump.  
Neuro- CNs2-12 intact. moving all 4 extremities. Unable to 
cooperate for complete neuro exam.

Discharge Physical Exam:
Vital Signs: T98.1, HR 69, BP 171/62, RR 17, SaO2 100% RA
Gen: Sitting up in bed, in NAD
Neuro: Alert and orientedx3, CN II-XII grossly intact, moving 
all extremities, EOMI, smile symmetric
HEENT: NC/AT, sclera anicteric, oropharynx pink/moist w/out 
exudates
Neck: trachea midline, no JVD appreciated
Pulm: Crackles noted at right lung base otherwise clear to 
auscultation
___: RRR, no r/m/g appreciated
And: soft, non-distended, non-tender to palpation, +BS
Ext: Warm, well-perfused, 2+ peripheral pulses, right-sided BKA 
with well-healed stump

 
Pertinent Results:
ADMISSION LABS:
___ 01:30PM BLOOD WBC-7.2 RBC-3.29* Hgb-9.7* Hct-31.6* 
MCV-96 MCH-29.5 MCHC-30.8* RDW-12.9 Plt ___
___ 01:45AM BLOOD WBC-7.3 RBC-2.98* Hgb-8.8* Hct-28.5* 
MCV-96 MCH-29.6 MCHC-31.0 RDW-13.1 Plt ___
___ 01:30PM BLOOD Neuts-79.3* Lymphs-11.8* Monos-6.7 
Eos-1.9 Baso-0.3
___ 01:30PM BLOOD ___ PTT-31.9 ___
___ 01:30PM BLOOD Glucose-327* UreaN-54* Creat-4.6*# 
Na-125* K-5.4* Cl-88* HCO3-19* AnGap-23*
___ 01:45AM BLOOD Glucose-148* UreaN-57* Creat-4.5* Na-131* 
K-4.6 Cl-97 HCO3-22 AnGap-17
___ 01:45AM BLOOD ALT-22 AST-42* AlkPhos-84 TotBili-0.2
___ 06:12AM BLOOD CK(CPK)-1268*
___ 05:20AM BLOOD CK(CPK)-556*
___ 01:45AM BLOOD CK-MB-13* cTropnT-0.04*
___ 10:40AM BLOOD CK-MB-22* cTropnT-0.04*
___ 11:09PM BLOOD CK-MB-21* cTropnT-0.15*
___ 06:12AM BLOOD CK-MB-16* MB Indx-1.3 cTropnT-0.09*
___ 05:20AM BLOOD CK-MB-7 cTropnT-0.03*
___ 02:02PM BLOOD CK-MB-3 cTropnT-0.05*
___ 11:10PM BLOOD CK-MB-3 cTropnT-0.03*
___ 01:30PM BLOOD Calcium-9.0 Phos-6.3*# Mg-2.4
___ 01:45AM BLOOD TotProt-5.9* Calcium-8.2* Phos-5.7* 
Mg-2.4
___ 10:40AM BLOOD Calcium-8.3* Phos-5.6* Mg-2.3
___ 01:45AM BLOOD TSH-2.2
___ 01:45AM BLOOD T4-4.4*
___ 01:45AM BLOOD PEP-NO SPECIFI
___ 01:30PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 05:20AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 11:18AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 02:22AM BLOOD Type-ART pO2-131* pCO2-58* pH-7.22* 
calTCO2-25 Base XS--4
___ 01:30PM URINE Color-Yellow Appear-Clear Sp ___
___ 01:30PM URINE Blood-TR Nitrite-NEG Protein-30 
Glucose-70 Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 01:30PM URINE RBC-1 WBC-1 Bacteri-NONE Yeast-NONE Epi-0
___ 01:30PM URINE CastHy-25*
___ 01:30PM URINE Hours-RANDOM Creat-175 Na-36 K-46 Cl-11 
TotProt-41 Prot/Cr-0.2 Albumin-20.6 Alb/Cre-117.7*

DISCHARGE LABS:

___ 04:27AM BLOOD WBC-7.5 RBC-2.37* Hgb-7.3* Hct-22.9* 
MCV-96 MCH-30.8 MCHC-31.9 RDW-14.0 Plt ___
___ 06:01AM BLOOD WBC-7.3 RBC-2.66* Hgb-7.9* Hct-25.5* 
MCV-96 MCH-29.6 MCHC-30.8* RDW-14.1 Plt ___
___ 04:50AM BLOOD WBC-7.3 RBC-2.59* Hgb-7.9* Hct-24.4* 
MCV-94 MCH-30.4 MCHC-32.2 RDW-14.3 Plt ___
___ 11:10PM BLOOD Glucose-191* UreaN-14 Creat-1.4* Na-133 
K-3.6 Cl-101 HCO3-23 AnGap-13
___ 06:01AM BLOOD Glucose-143* UreaN-13 Creat-1.3* Na-135 
K-4.3 Cl-104 HCO3-25 AnGap-10
___ 04:50AM BLOOD Glucose-208* UreaN-12 Creat-1.1 Na-131* 
K-3.4 Cl-97 HCO3-27 AnGap-10
___ 11:10PM BLOOD CK(CPK)-52
___ 11:10PM BLOOD CK-MB-3 cTropnT-0.03*
___ 11:10PM BLOOD Calcium-8.3* Phos-3.2 Mg-2.1
___ 06:01AM BLOOD Calcium-8.0* Phos-3.2 Mg-2.0
___ 04:50AM BLOOD Calcium-8.3* Phos-3.3 Mg-1.7
___ 07:23PM BLOOD Acetone-MODERATE Osmolal-307
___ 02:26PM BLOOD Type-MIX pO2-63* pCO2-31* pH-7.45 
calTCO2-22 Base XS-0 Comment-GREEN TOP
___ 11:17AM BLOOD ___ pO2-58* pCO2-31* pH-7.46* 
calTCO2-23 Base XS-0
___ 09:50PM BLOOD Lactate-1.9
___ 02:26PM BLOOD Lactate-1.0

MICRO:
___ 1:30 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 7:27 pm BLOOD CULTURE      Source: Line-left picc. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH.

URINE CULTURE:
Time Taken Not Noted     Log-In Date/Time: ___ 4:49 pm
      URINE      SHARED W/HEM1555D ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 ORGANISMS/ML.. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--  =>32 R
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----  =>16 R

___ 1:30 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

___ 2:05 pm BLOOD CULTURE      Source: Line-PICC. 

   Blood Culture, Routine (Pending): 

IMAGING/STUDIES:
EEG (___): IMPRESSION: This is an abnormal continuous ICU 
monitoring study because of a
predominantly polymorphic delta pattern, indicative of a 
moderate to severe encephalopathy, which is etiologically 
nonspecific. There are no electrographic seizures or 
epileptiform discharges.

EEG (___): IMPRESSION: This is an abnormal continuous ICU 
monitoring study because of a low voltage, disorganized, and 
slow background, indicative of a moderate to severe 
encephalopathy, which is etiologically nonspecific. No definite 
epileptiform discharges or electrographic seizures are seen.

CT C-SPINE W/O CONTRAST (___): IMPRESSION: 1.  No acute 
cervical spine fracture or prevertebral soft tissue swelling.   
2.  Moderate degenerative changes with mild central canal 
narrowing at multiple levels as described above.

CT HEAD W/O CONTRAST (___): FINDINGS: Again noted is a 
hypodensity in the pons suggestive of remote infarct as seen 
previously.  There is no evidence of an acute intracranial 
hemorrhage, edema, large vessel territorial infarction, or shift 
of the midline structures.  The ventricles and sulci are stably 
prominent in size and configuration, likely representing 
age-related cortical atrophic changes.  Bilateral 
periventricular and subcortical white matter hypodensities are 
again noted and likely sequela of chronic small vessel ischemic 
changes.  No acute fractures are identified.  The visualized 
mastoid air cells and paranasal sinuses are clear.  IMPRESSION: 
No acute intracranial injury.

CT HEAD W/O CONTRAST: (___): FINDINGS:  There is no acute 
hemorrhage, edema, mass effect or large territorial infarction.  
Ventricles and sulci are prominent, consistent with atrophy.  
The visualized paranasal sinuses, mastoid air cells and middle 
ear cavities are clear.  The bones are intact. IMPRESSION:  No 
acute intracranial process.

CXR (___): IMPRESSION: Possible mild congestion, otherwise 
no acute findings.

CXR (___): IMPRESSION:  Right basilar opacification is 
minimally increased since prior and may be still compatible with 
vascular congestion, considering prominent hila, although in the 
appropriate clinical setting pneumonia should be considered.

RENAL ULTRASOUND (___): IMPRESSION: No hydronephrosis, 
nephrolithiasis or renal mass.

TTE (___): Conclusions: The left atrium and right atrium are 
normal in cavity size. The estimated right atrial pressure is at 
least 15 mmHg. There is mild symmetric left ventricular 
hypertrophy with normal cavity size and regional/global systolic 
function (LVEF>70%). The estimated cardiac index is normal 
(>=2.5L/min/m2). Doppler parameters are indeterminate for left 
ventricular diastolic function. Right ventricular chamber size 
and free wall motion are normal. The aortic valve leaflets (3) 
appear structurally normal with good leaflet excursion and no 
aortic stenosis or aortic regurgitation. The mitral valve 
leaflets are mildly thickened. There is no mitral valve 
prolapse. Mild (1+) mitral regurgitation is seen. The estimated 
pulmonary artery systolic pressure is normal. There is a 
trivial/physiologic pericardial effusion. 
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
preserved global and regional biventricular systolic function. 
Mild mitral regurgitation. 

ECG (___): Normal sinus rhythm with delayed R wave 
transition. Cannot exclude prior anteroseptal myocardial 
infarction. Compared to the previous tracing of ___ there 
has been resolution of the inferior T wave inversion. Otherwise, 
no diagnostic change.

ECG (___): Sinus rhythm. Poor R wave progression. 
Non-specific lateral ST segment changes. Compared to tracing #1 
right bundle-branch block and left anterior fascicular block are 
now present on the current tracing. These are likely due to 
rate-related bundle on the previous tracings.

ECG (___): Sinus tachycardia. Left atrial abnormality. 
Possible anteroseptal wallmyocardial infarction, age 
indeterminate. Compared to the previous tracing of ___ a QS 
complex is now seen in lead V2 which may be due to lead 
placement. The Q-T interval is now prolonged.

 
Brief Hospital Course:
Mrs. ___ is a ___ year old woman, pmh of T1DM, PVD s/p right 
leg amputation, seizures, who presented s/p fall with ___, 
hyperglycemia, and AMS.

# AMS: Initial altered mental status thought to be due to build 
up of opiate metabolites in setting of renal failure with 
componenent of toxic/metabolic encephalopathy. No evidence of 
seizures on EEG. Narcotics and other deliriogenic meds were held 
on admission. Patient's altered mental status improved with 
narcan and improvement in creatinine and patient was transferred 
to the floor. On ___, patient had recurrent altered mental 
status in the setting of hypertension to SBP of 240s and 
evidence of UTI on UA and urine culture. Patient was treated for 
UTI with ceftriaxone and hypertension was controlled with 
labetalol drip with subsequent improvement in mental status.  
Patient underwent repeat EEG which was negative for epileptiform 
activity, but did show diffuse slow waves consistent with 
encephalopathy of unclear etiology.  Labetalol drip was 
discontinued, patient was transitioned to PO anti-hypertensives 
(labetalol, amlodipine, lisinopril).  On discharge patient was 
alert and oriented x3.

#Hypertensive Emergency: Transferred back to the ICU on ___ 
with hypertension and AMS. Hypertension initially controlled 
with IV meds and then patient transitioned to labetalol gtt. 
Unclear etiology of hypertension but concern initially that 
patient was withdrawing from opiates with return of renal 
function. Patient tried on low dose opiates on ___ without 
significant improvement in hypertension. Hypertension ultimately 
controlled with PO labetolol 600 mg TID, amlopidine 10mg per day 
and lisinopril 20 mg per day.  Patient still intermittently has 
elevated blood pressures, however without mental status changes. 
 Recommend continued titration of anti-hypertensives as 
indicated. 
 
#Elevated troponins: Troponins elevated on admission with 
elevated CK-Mb which was disproportionate to Tn rise thought 
maybe related to skeletal muscle breakdown. Troponin leak 
thought to be related to mild demand ischemia in the setting of 
renal failure. Troponins trended down without further 
intervention. Of note, patient went into RBBB on EKG following 
narcan thought to be rate dependent RBBB as patient has had this 
in the past. Back into sinus rhythm once narcan wore off and 
tachycardia resolved. Echo performed ___ showed mild symmetric 
left ventricular hypertrophy with preserved global and regional 
biventricular systolic function. Mild mitral regurgitation 
without hypokinesis. 
 
# ___: Pt w/ Cr elevation to 4.6 from baseline of 1.1. ___ may 
be ___ poor PO intake and dehydration with hyperglycemia coupled 
with kidney injury in the setting of NSAID and lisinopril use. 
Renal consulted and spun urine which revealed ATN. Kidney 
function improved with IV fluids.  By discharge date (___), 
creatinine had retuned to baseline level of 1.1.  UOP was 
difficult to assess given patient was incontinent, however, per 
report, patient was making good urine.  Lisinopril was restarted 
in setting of improved renal function. 
 
# Hyperglycemia/T1DM: On insulin pump at home, followed by 
___, most recent A1C 7.4 in ___. Likely the patient 
stopped administering her insulin when she became confused at 
home. Her hyperglycemia likely caused osmotic diuresis and 
volume depletion thus causing further confusion. Patient 
initially on insulin gtt which was stopped on initial transfer 
to ICU. On return to ICU on ___, patient with mild 
hyperglycemia and developed anion gap with glucose to 400s on 
___ thought related to UTI as below. She was briefly started on 
insulin gtt with closure of gap and was placed back on insulin 
sliding scale with increased night-time Glargine dose (18 units) 
per ___ recs.  

#UTI: Patient without evidence of UTI initially but developed 
dirty UA with urine culture growing E. Coli on ___. Infection 
treated with ceftriaxone. Patient developed fever on ___. Renal 
ultrasound without evidence of hydronephrosis or clear 
pyelonephritis.  Patient completed course of antibiotics on ___ 
(7 day course of ceftriaxone). 

#Fevers: Infectious work-up revealed Ecoli UTI. Blood cultures 
were negative to date.  Cdiff was negative.  Patient was treated 
wit Ceftriaxone for her UTI.

#Chronic Pain: Patient with chronic shoulder and back pain. On 
narcotics at home which may likely contributed to initial AMS.  
Withdrawal from opioids may also have been cause of her 
hypertension. Patient's pain was managed with Acetaminophen 
initially, subsequently with opioids (dilaudid).  Patient 
continued to have withdrawal symptoms (hypertension, AMS, 
diaphoresis), so patient was started on Methadone 20 mg/d.  Per 
hospital protocol, there is a called for 20% decrease in dose 
daily.  Patient was discharged on 12.5 mg of methadone.

#Hypothyroidism: Continued on home levothyroxine. TSH normal 
this admission. 
 
Hospital Issues:
# Communication: Patient, Husband ___ ___  
# Code: Full  

Transitional Issues: 
-Patient with multiple admissions over last year suggesting 
difficulty caring for self and adhering to home medications on 
her own at home, may benefit from ___ vs SNF at discharge. 
-Narcotics addiction, patient on contract. Given ongoing issues 
with mental status on recurrent admissions, would benefit from 
weaning of narcotics as possible.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcitriol 0.25 mcg PO DAILY 
2. Citalopram 40 mg PO DAILY 
3. Clopidogrel 75 mg PO DAILY 
4. Cyanocobalamin 1000 mcg PO DAILY 
5. cycloSPORINE 0.05 % ___ TID 
6. Docusate Sodium 100 mg PO BID 
7. Fish Oil (Omega 3) 1000 mg PO BID 
8. Gabapentin 400 mg PO DAILY 
9. Glucagon 1 mg IM PRN low blood sugar 
10. Levothyroxine Sodium 88 mcg PO DAILY 
11. Lorazepam 1 mg PO Q6H:PRN anxiety 
12. Metoclopramide 10 mg PO QIDACHS 
13. Calcitrate-Vitamin D (calcium citrate-vitamin D3) 315-250 
mg-unit Oral daily 
14. carboxymethylcellulose sodium 1% Drops ___ dryness 
15. FoLIC Acid 1 mg PO DAILY 
16. Morphine SR (MS ___ 30 mg PO QPM 
17. Albuterol Inhaler 1 PUFF IH Q6H:PRN shortness of breath 
18. Tiotropium Bromide 1 CAP IH DAILY 
19. Multivitamins 1 TAB PO QAM 
20. Omeprazole 20 mg PO DAILY 
21. OxycoDONE (Immediate Release)  5 mg PO BID 
22. Senna 2 TAB PO DAILY:PRN constipation 
23. Morphine SR (MS ___ 45 mg PO QAM:PRN pain 
24. Lisinopril 20 mg PO DAILY 
25. Insulin  Pump SC (Self Administering Medication)Insulin 
Aspart (Novolog) (non-formulary)

Basal Rates:
  Midnight - 8:  .6 Units/Hr
  8 - 1530:  .65 Units/Hr
  15:30 - 2330:  .75 Units/Hr
  2330 - 2400:  .4 Units/Hr
Meal Bolus Rates:
  Breakfast = 1:10
  Lunch = 1:10
  Dinner = 1:10
  Snacks = 1:10
High Bolus:
  Correction Factor = 1:40
  Correct To ___ mg/dL

MD acknowledges patient competent
MD has ordered ___ consult

 
Discharge Medications:
1. Calcitrate-Vitamin D (calcium citrate-vitamin D3) 315-250 
mg-unit Oral daily 
2. Fish Oil (Omega 3) 1000 mg PO BID 
3. carboxymethylcellulose sodium 1% Drops ___ dryness 
4. Albuterol Inhaler 1 PUFF IH Q6H:PRN shortness of breath 
5. Calcitriol 0.25 mcg PO DAILY 
6. Citalopram 40 mg PO DAILY 
7. Clopidogrel 75 mg PO DAILY 
8. Cyanocobalamin 1000 mcg PO DAILY 
9. cycloSPORINE 0.05 % ___ TID 
10. Docusate Sodium 100 mg PO BID 
11. FoLIC Acid 1 mg PO DAILY 
12. Glucagon 1 mg IM PRN low blood sugar 
13. Levothyroxine Sodium 88 mcg PO DAILY 
14. Lisinopril 20 mg PO DAILY 
15. Metoclopramide 10 mg PO QIDACHS 
16. Omeprazole 20 mg PO DAILY 
17. Senna 2 TAB PO DAILY:PRN constipation 
18. Tiotropium Bromide 1 CAP IH DAILY 
19. Amlodipine 10 mg PO DAILY 
20. Labetalol 600 mg PO TID 
21. Glargine 18 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
22. Lidocaine 5% Patch 2 PTCH TD DAILY 
23. Methadone 12.5 mg PO DAILY 
24. Multivitamins 1 TAB PO QAM 
25. Acetaminophen 650 mg PO Q6H 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Hypertensive emergency
Hyperglycemia
Altered mental status
Acute kidney injury
Urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,
You were admitted on ___ for altered mental status, high blood 
sugars, and high blood pressures. Your confusion and high blood 
pressures required a stay in the ICU. You were put on several 
medications to manage your blood pressure and at discharge it is 
moderately well controlled. You should follow up with your 
primary care provider for further monitoring and treatment.

You came to the hospital with high blood sugars. You were taken 
off your insulin pump and were put on long acting and short 
acting insulin. Please continue this insulin regimen until you 
see your endocrinologist. 

In addition, you were on many pain medications at home, which 
likely contributed to your confusion. You have been taken off 
your home medications and put on a long-acting opioid 
medication, methadone, with plans to slowly titrate it down. At 
discharge please see your primary care physician for further 
management of your pain. 

You also had a urinary tract infection on arrival to the 
hospital. You finished a course of antibiotics which treated the 
infection. 
 
Followup Instructions:
___